US05627286
A. Preparation of 2-[[(3-Methyl-2-butenyl)oxy]methyl]-5-nitrofuran
Freshly prepared silver oxide (34.8 g, 0.15 mol) was added to a mixture of 3-methyl-2-buten-1-ol (21.0 g, 25 mL, 0.24 mol) and 5-nitro-2-furfuryl bromide (18.8 g, 0.1 mol) and stirred at room temperature for 12 h. Silver salts were removed by filtration and the filter cake was washed with ether (200 mL). The filtrate and the washings were combined and evaporated to remove ether and excess 3-methyl-2-buten-1-ol. The oil obtained was purified by column chromatography (silica gel, hexane:ethyl acetate, 7:1). Fractions containing the product were collected and evaporated to give a light yellow oil. Yield 5.5 g. 1H NMR (CDCl3) ε 1.69 and 1.77 (s, 6H, CH3), 4.09 [d, 2H, (CH3)2C=CHCH2 --OCH2)], 4.64 [s, 2H, (CH3)2C=CHCH2 --OCH2)], 5.38 (t, 1H, (CH3)2C=CH--), 6.6 and 7.27 (d, 2H, ArH).

reactant | 3-methyl-2-buten-1-ol | 0.24 mol, 25 mL, 21.0 g | CC(=CCO)C | C5H10O
reactant | 5-nitro-2-furfuryl bromide | 0.1 mol, 18.8 g | C1=C(OC(=C1)[N+](=O)[O-])CBr | C5H4BrNO3
reactant | (CH3)2C | C[C]C | C3H6
catalyst | silver oxide | 0.15 mol, 34.8 g | [Ag]=O
product | 2-[[(3-Methyl-2-butenyl)oxy]methyl]-5-nitrofuran | CC(=CCOCC=1OC(=CC1)[N+](=O)[O-])C | C10H13NO4
